US05057529
Butyl lithium (2.5 M, 12.5 ml) in hexane was added to a solution of 2-chlorothiazole (3.6 g, 30 mmol) in tetrahydrofuran (100 ml) at -78° C. under an atmosphere of nitrogen. After 10 minutes, a solution of 2-(2,4-dichlorophenyl)-2-methyloxirane (5.4 g, 26 mmol) in tetrahydrofuran (40 ml) was added and the mixture was slowly allowed to warm to room temperature and then stirred for a further 3 hours. Water was added and the tetrahydrofuran was then evaporated under reduced pressure. The residue was extracted with ethyl acetate (2×300 ml) and the combined organic extract was washed with saturated sodium chloride solution and then dried. Flash chromatography of the residue on a silica gel column using ethyl acetate-petroleum ether as eluant gave 2-(2,4-dichlorophenyl)-1-(2-chlorothiazol-5-yl)-propan-2-ol (6.4 g) as a white solid, m.pt. 164° C.

reactant | Butyl lithium | 2.5 M, 12.5 ml | C(CCC)[Li]
reactant | 2-chlorothiazole | 30 mmol, 3.6 g | ClC=1SC=CN1 | C3H2ClNS
reactant | 2-(2,4-dichlorophenyl)-2-methyloxirane | 26 mmol, 5.4 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)C | C9H8Cl2O
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(2,4-dichlorophenyl)-1-(2-chlorothiazol-5-yl)-propan-2-ol | 6.4 g | ClC1=C(C=CC(=C1)Cl)C(CC1=CN=C(S1)Cl)(C)O | C12H10Cl3NOS
